US07728029B2
Triethylamine (4.8 mL, 34.2 mmol) and tert-butyl hydrazine hydrochloride (1.4 g, 11.4 mmol) were added sequentially to a solution of crude 2-cyclopropanecarbonyl-3-dimethylamino-acrylic acid methyl ester (2.4 g, 11.4 mmol) in ethanol (24 mL). The resulting suspension was mixed well and divided equally into two 25 mL Personal Chemistry Microwave Process Tubes (Biotage AB, Sweden). The tubes were sealed with a septum and submitted to 150 W microwave irradiation using a Personal Chemistry Microwave Synthesis System (Biotage AB, Sweden) at 160° C. for 30 minutes. The reaction mixtures in the two tubes were combined and ethanol was evaporated under reduced pressure. The remaining mixture was partitioned between dichloromethane and water, and the water phase was extracted three times with dichloromethane. The organic phases were combined, concentrated in vacuo, and purified by silica chromatography eluting with a gradient of 10-20% ethyl acetate/hexanes, then 20% ethyl acetate/hexanes to give 1-tert-butyl-5-cyclopropyl-1H-pyrazole-4-carboxylic acid methyl ester (921 mg, 36%). LRMS m/z calcd for C12H18N2O2 (M+H) 223.1, found 223.1.

reactant | Triethylamine | 34.2 mmol, 4.8 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyl hydrazine hydrochloride | 11.4 mmol, 1.4 g | Cl.C(C)(C)(C)NN
reactant | 2-cyclopropanecarbonyl-3-dimethylamino-acrylic acid methyl ester | 11.4 mmol, 2.4 g | COC(C(=CN(C)C)C(=O)C1CC1)=O | C10H15NO3
solvent | ethanol | 24 mL | C(C)O | C2H6O
product | 1-tert-butyl-5-cyclopropyl-1H-pyrazole-4-carboxylic acid methyl ester | 921 mg, 36% | COC(=O)C=1C=NN(C1C1CC1)C(C)(C)C | C12H18N2O2
